US08236826B2
Production of methyl 5-(4-benzylpiperazin-1-yl)-2-methoxymethoxybenzoate
To a solution of methyl 5-chloro-2-methoxymethoxybenzoate (1.45 g, 6.29 mmol) and 1-benzylpiperazine (1.66 g, 9.43 mmol) in toluene (50 mL) were added palladium acetate (28 mg, 0.126 mmol), 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (157 mg, 0.252 mmol) and cesium carbonate (3.07 g, 9.43 mmol), and the resulting solution was refluxed for 3 hours. Water was added to the resulting solution, and extracted with ethyl acetate. The ethyl acetate layer was dried over anhydrous magnesium sulfate, and evaporated. The residue was purified by silica gel column chromatography (ethyl acetate:n-hexane=1:2), to thereby yield 400 mg of the title compound.

reactant | methyl 5-chloro-2-methoxymethoxybenzoate | 6.29 mmol, 1.45 g | ClC=1C=CC(=C(C(=O)OC)C1)OCOC | C10H11ClO4
reactant | 1-benzylpiperazine | 9.43 mmol, 1.66 g | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
reactant | 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 0.252 mmol, 157 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | cesium carbonate | 9.43 mmol, 3.07 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium acetate | 0.126 mmol, 28 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | Water | O | H2O
product | methyl 5-(4-benzylpiperazin-1-yl)-2-methoxymethoxybenzoate | C(C1=CC=CC=C1)N1CCN(CC1)C=1C=CC(=C(C(=O)OC)C1)OCOC | C21H26N2O4
